US07504420B2
Wittig reaction of 3-methoxy-4-methylbenzaldehyde with cyanomethyl triphenylphosphorane gave 3-(3-methoxy-4-methylphenyl)acrylonitrile in 77% yield which was further transformed to 3-(3-methoxy-4-methylphenyl)propan-1-amine using the above described procedures.

reactant | 3-methoxy-4-methylbenzaldehyde | COC=1C=C(C=O)C=CC1C | C9H10O2
reactant | cyanomethyl triphenylphosphorane | C(#N)CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18NP
product | 3-(3-methoxy-4-methylphenyl)acrylonitrile | 77% yield | COC=1C=C(C=CC1C)C=CC#N | C11H11NO
